// RLC bandpass filter - Spectre netlist
simulator lang=spectre
global 0

// Power supply
vdd (vdd 0) vsource type=dc dc=1.8

// Input pulse
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=500p fall=500p width=754.7594692925196n period=1509.5189385850392n

// RLC bandpass filter
l1 (in mid) inductor l=2.2e-06
r1 (mid out) resistor r=4681
c1 (out 0) capacitor c=2.2e-10

// Analysis - timestep fine enough for LC oscillation
tran tran stop=2140.4727355975865n errpreset=moderate maxstep=2n

// Save outputs
save in out
